US06531477B1
To a stirred, solution of 23 mg (0.042 mmol) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(ethenesulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one in 1 mL of THF was added 1 mL of 2M diethylamine in THF. The solution was stirred 3 h and concentrated under reduced pressure. The product was dissolved in 1 mL of benzene and 0.05 mL of MeOH, frozen, and lyophilized to afford 25 mg (100%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(2-(dimethylamino)ethenesulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as an amorphous white solid. 1H NMR (300 MHz, DMSO) δ 7.96(s, 2H); 7.19(d, 2H, J=8.5 Hz); 7.08(d, 2H, J=8.8 Hz); 3.79(s, 2H); 3.18-3.32(m, 1H); 3.13(t, 2H, J=7.5 Hz); 2.53(t, 2H, J=7.5 Hz); 1.99(s, 6H); 1.28(d, 6H, J=7.0 Hz).

reactant | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(ethenesulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.042 mmol, 23 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)NS(=O)(=O)C=C)C(C)C | C23H20Cl3N5O3S
reactant | diethylamine | 2M, 1 mL | C(C)NCC | C4H11N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(2-(dimethylamino)ethenesulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 25 mg, 100% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)NS(=O)(=O)C=CN(C)C)C(C)C | C25H25Cl3N6O3S
